US05876756
3-(4-Carboxyphenylamino)-5-trifluoromethyl-1,2,4-oxadiazole
In 100 ml of tetrahydrofuran was dissolved 4.0 g of N-(4-carboxyphenyl)-N'-hydroxyguanidine produced in Reference Example 60. To the solution was added, while stirring at 0° C., 6.75 g of anhydrous trifluoroacetic acid. The mixture was stirred for 1.5 hour under the same conditions, followed by concentration under reduced pressure. To the concentrate was added water. The resulting crystalline product was collected by filtration and was recrystallized from ethyl acetate--hexane to afford 3.5 g of the title compound as a colorless crystalline product.

reactant | N-(4-carboxyphenyl)-N'-hydroxyguanidine | 4.0 g | C(=O)(O)C1=CC=C(C=C1)NC(=N)NO | C8H9N3O3
reactant | trifluoroacetic acid | 6.75 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-(4-Carboxyphenylamino)-5-trifluoromethyl-1,2,4-oxadiazole | 3.5 g | C(=O)(O)C1=CC=C(C=C1)NC1=NOC(=N1)C(F)(F)F | C10H6F3N3O3
